US07151096B2
A mixture of 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one (2.22 g, 10.5 mmol), 3-methoxy-phenyl-guanidine nitrite (2.40 g, 10.5 mmol), lithium hydroxide (350 mg, 14.5 mmol) in 2-butanol (25 mL) is heated to reflux for 8 hours. The reaction mixture is cooled to room temperature, concentrated and water (60 mL) is added. The resultant solid is collected by filtration and washed with water, isopropanol and dried to give N-[3-methoxy-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine (2.81 g); ESI-MS (m/z): 313 (M++H).

reactant | 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one | 10.5 mmol, 2.22 g | CN(C=CC(=O)C1=CC(=NC=C1)Cl)C | C10H11ClN2O
reactant | 3-methoxy-phenyl-guanidine nitrite | 10.5 mmol, 2.40 g | N(=O)O.COC=1C=C(C=CC1)NC(=N)N
reactant | lithium hydroxide | 14.5 mmol, 350 mg | [OH-].[Li+]
solvent | 2-butanol | 25 mL | CC(CC)O | C4H10O
product | N-[3-methoxy-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | 2.81 g | COC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C16H13ClN4O
